US06002008
2-Cyano-3-(2-methyl-4-nitrophenyl)acrylic Acid Ethyl Ester
A mixture of 2-methyl-4-nitroaniline (38.0 g, 250 mmol), ethyl (ethoxymethylene)-cyanoacetate (50.8 g, 300 mmol), and 200 ml of toluene was refluxed for 24 h, cooled, diluted with 1:1 ether-hexane, and filtered. The resulting white solid was washed with hexane-ether and dried to give 63.9 g, mp 180-210° C.

reactant | 2-methyl-4-nitroaniline | 250 mmol, 38.0 g | CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O2
reactant | ethyl (ethoxymethylene)-cyanoacetate | 300 mmol, 50.8 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Cyano-3-(2-methyl-4-nitrophenyl)acrylic Acid Ethyl Ester | C(C)OC(C(=CC1=C(C=C(C=C1)[N+](=O)[O-])C)C#N)=O | C13H12N2O4
